US09102631B2
1-(3-(4-(Pyrimidin-2-yl)piperazine-1-carbonyl)benzyl)-5,6,7,8-tetrahydroquinazoline-2,4(1H, 3H)-dione
A mixture of 1-(3-carboxybenzyl)-5,6,7,8-tetrahydroquinazoline-2,4(1H,3H)-dione (0.2 mmol), 1-(pyrimidin-2-yl)piperazine (0.2 mmol), 2-(7-aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HATU, 0.26 mmol) and N,N-diisopropylethylamine (DIPEA, 0.4 mmol) in DMF (5 mL) was stirred at room temperature overnight. To the mixture was added 50 mL of water and it was extracted with EA (50 mL×3). The organic layer was washed by 1 N hydrochloric acid (50 mL×1) and saturated NaCl aquenous solution (50 mL×1), dried with anhydrous sodium sulfate, and concentrated to give the crude product, which was purified by flash chromatography (DCM: MeOH=20:1) to give the title compound (20.43 mg, 23.3% yield) as white solid. 1H NMR (DMSO-d6): 11.35 (s, 1H), 8.39 (d, J=4.5 Hz, 2H), 7.48-7.41 (m, 1H), 7.36-7.24 (m, 3H), 6.67 (t, J=4.8 Hz, 1H), 5.10 (s, 2H), 3.88-3.20 (m, 8H), 2.46-2.42 (m, 2H), 2.25-2.21 (m, 2H), 1.69-1.43 (m, 4H). MS: m/z 447.4 [M+H]+.

reactant | 1-(3-carboxybenzyl)-5,6,7,8-tetrahydroquinazoline-2,4(1H,3H)-dione | 0.2 mmol | C(=O)(O)C=1C=C(CN2C(NC(C=3CCCCC23)=O)=O)C=CC1 | C16H16N2O4
reactant | 1-(pyrimidin-2-yl)piperazine | 0.2 mmol | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
reactant | 2-(7-aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 0.26 mmol | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.4 mmol | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 1-(3-(4-(Pyrimidin-2-yl)piperazine-1-carbonyl)benzyl)-5,6,7,8-tetrahydroquinazoline-2,4(1H, 3H)-dione | 20.43 mg, 23.3% yield | N1=C(N=CC=C1)N1CCN(CC1)C(=O)C=1C=C(CN2C(NC(C=3CCCCC23)=O)=O)C=CC1 | C24H26N6O3
